US05347036
A mixture of a solution of 6.3 g (0.018 mole) of 4-[3,5-di-(tertiary-butyl)-4-hydroxyanilino]phenylacetic acid in 10 ml of N,N-dimethylformamide and 5 g (0.036 mole) of potassium carbonate was heated on a steam bath until gas evolution ceased. The mixture was allowed to cool to ambient temperature, and 5 milliliters of methyl iodide were then added. The mixture was heated at its boiling temperature and 5 ml aliquots of methyl iodide were added at 20, 45 and 60 minutes. After the mixture had evaporated, the residue was taken up in water and 2N sodium hydroxide solution was added. The mixture was warmed, and the insoluble residue of methyl 4-[3,5-di(tertiary-butyl)-4-hydroxy-N-methyl-anilino]phenylacetate was separated by filtration. The residue was suspended and partially dissolved in 50 ml of methanol, and 10 ml of 2.5N sodium hydroxide solution was added. The mixture was stirred for about 16 hours, diluted with 300 ml of water and 300 ml of diethyl ether, and was then further diluted with about 100 ml of hexane. The mixture was acidified with dilute hydrochloric acid and the aqueous phase was discarded. The organic phase was washed first with 10% sodium bicarbonate solution and then with 5% sodium carbonate solution. The product remained in the organic phase as the sodium salt. The organic phase was acidified with 10% aqueous hydrochloric acid and washed with sodium chloride solution, followed by drying. Evaporation provided a residue which was extracted with 20 ml of boiling benzene. Hexane (6 ml) was added, and the light yellow solid was recrystallized first from 80% aqueous ethanol, and then from benzene to provide fine yellow needles of 4-[3,5-di(tertiary-butyl)-4-hydroxy-N-methylanilino]phenylacetic acid, m.p. 181°-182.5° C. Analysis: Calculated for C23H31NO3 ; % C, 74.8; % H, 8.5; % N, 3.8; Found: % C, 74.8; % H, 8.6; % N, 3.6.

reactant | 4-[3,5-di-(tertiary-butyl)-4-hydroxyanilino]phenylacetic acid | 0.018 mole, 6.3 g | C(C)(C)(C)C=1C=C(NC2=CC=C(C=C2)CC(=O)O)C=C(C1O)C(C)(C)C | C22H29NO3
reactant | potassium carbonate | 0.036 mole, 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 5 milliliters | CI | CH3I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-[3,5-di(tertiary-butyl)-4-hydroxy-N-methylanilino]phenylacetic acid | C(C)(C)(C)C=1C=C(N(C)C2=CC=C(C=C2)CC(=O)O)C=C(C1O)C(C)(C)C | C23H31NO3
